US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-1-(3-fluoro-phenyl)-2-(2-methoxy-phenyl)-ethanol
A magnetically stirred 0.25M tetrahydrofuran solution of commercially available 2-methoxybenzylmagnesium bromide (available from Rieke-Metals) (80 ml, 3 equiv.) under nitrogen atmosphere was cooled to −10° C. and to this was added neat (4-Benzyl-morpholin-2-yl)-1-(3-fluoro-phenyl)-methanone (2.1 g, 1 equiv.). The solution was allowed to warm to room temperature and reaction progress followed using mass spectrometry. After 1.5 hours 2-methoxybenzylmagnesium bromide solution (14 ml, 0.5 equiv.) was again added to the reaction and after a further 0.5 hours an aqueous saturated solution of NaHCO3 (50 mL) was added to halt the reaction. The aqueous solution was extracted with diethyl ether, the organic phase dried with MgSO4, evaporated in vacuo to give 2.8 g of a yellow amorphous solid. The compound was taken without further purification in the next step. LCMS (6 minutes method) [M+H]+=422 @ Rt 3.03 and 2.86 min. major peaks.

reactant | 2-methoxybenzylmagnesium bromide | 80 ml, 3 equiv. | COC1=C(C[Mg]Br)C=CC=C1
reactant | (4-Benzyl-morpholin-2-yl)-1-(3-fluoro-phenyl)-methanone | 2.1 g, 1 equiv. | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC(=CC=C1)F | C18H18FNO2
reactant | 2-methoxybenzylmagnesium bromide | 14 ml, 0.5 equiv. | COC1=C(C[Mg]Br)C=CC=C1
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 0.25M | O1CCCC1 | C4H8O
product | 1-(4-Benzyl-morpholin-2-yl)-1-(3-fluoro-phenyl)-2-(2-methoxy-phenyl)-ethanol | 2.8 g | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC(=CC=C1)F | C26H28FNO3
